US07030267B2
To 1-aminomethyl-spiro[2.5]octane-1-carboxylic acid ethyl ester (5.0 g, 23.7 mmol) was added 50 mL 3N HCl (aq), and the mixture was refluxed for 72 hours. The crude 1H NMR indicated the hydrolysis had proceeded to 50% completion. The solution was concentrated, and the residue washed exhaustively with Et2O to remove the starting material, until a fine white solid was obtained. The combined solids were washed again with Et2O (3×15 mL) to give a chalky solid. A small portion of the batch was recrystallized from MeOH/EtOAc to furnish 0.17 g (3.3%) of 1-aminomethyl-spiro[2.5]octane-1-carboxylic acid as a colorless solid, mp>250° C. (dec): 1H NMR (D2O) δ 3.37 (d, J=13.4 Hz, 1H), 2.83 (d, J=13.4 Hz, 1H), 1.21–1.33 (m, 10H), 0.99 (d, J=5.1 Hz, 1H), 0.47 (d, J=5.1 Hz, 1H). Anal. Calcd for C10H17NO2.HCl: C, 54.67; H, 8.26; N, 6.37. Found: C, 54.77; H, 8.41; N, 6.31. A second crop was also obtained (0.34 g, 6.6%). Anal. Calcd for C10H17NO2.HCl: C, 54.67; H, 8.26; N, 6.37. Found: C, 54.71; H, 8.42; N, 6.22. The Et2O washings were concentrated to provide 1-aminomethyl-spiro[2.5]octane-1-carboxylic acid ethyl ester hydrochloride as a colorless solid, mp 118–120° C.: 1H NMR (CDCl3) δ 8.39 (br s, 3H), 4.23 (m, 2H), 3.66 (m, 1H), 3.31 (m, 1H), 1.85 (m, 1H), 1.65 (m, 1H), 1.42–1.54 (m, 9H), 1.28 (t, J=7.1 Hz, 3H), 1.03 (d, J=5.4 Hz, 1H). Anal. Calcd for C12H21NO2.HCl: C, 58.17; H, 8.95; N, 5.65. Found: C, 58.31; H, 8.87; N, 5.51.

reactant | 1-aminomethyl-spiro[2.5]octane-1-carboxylic acid ethyl ester | 23.7 mmol, 5.0 g | C(C)OC(=O)C1(CC12CCCCC2)CN | C12H21NO2
solvent | HCl | 3N, 50 mL | Cl | ClH
product | 1-aminomethyl-spiro[2.5]octane-1-carboxylic acid | 0.17 g, 3.3% | NCC1(CC12CCCCC2)C(=O)O | C10H17NO2
